US05753679
0.756 g (0.005 mol) of 2-amino-4-methylbenzoic acid was dissolved in 50 ml of dioxan, treated with 0.87 ml (0.00625 mol) of trifluoroacetic anhydride and stirred at room temperature for 16 hrs. The solvent was removed and the residue was triturated in a mixture of 40 ml of hexane and 4 ml of ether, filtered off over a frit and dried in a high vacuum. 1.15 g (93%) of 4-methyl-2-trifluoroacetamido-benzoic acid were obtained as beige crystals; m.p. 178°-180°.

reactant | 2-amino-4-methylbenzoic acid | 0.005 mol, 0.756 g | NC1=C(C(=O)O)C=CC(=C1)C | C8H9NO2
reactant | trifluoroacetic anhydride | 0.00625 mol, 0.87 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 4-methyl-2-trifluoroacetamido-benzoic acid | 1.15 g, 93% | CC1=CC(=C(C(=O)O)C=C1)NC(C(F)(F)F)=O | C10H8F3NO3
